US04920119
22.5 g of 4-amino-3-(4-benzyloxyformamidophenyl)-5-isothiazolecarboxamide in 25 ml of concentrated hydrochloric acid and 150 ml of N-methylpyrrolidone were cooled in an ice-bath and stirred during the addition of 4.89 g of sodium nitrite dissolved in 20 ml of water. After 0.5 hour 150 ml of water were added and the resulting precipitate was filtered off, washed with water, dried in vacuo and recrystallized from ethyl acetate to yield 16.6 g of 7-(4-benzyloxyformamidophenyl)isothiazolo[4,5-d]-1,2,3-triazin-4(3H)-one of melting point 190°-191° C. (dec.).

reactant | 4-amino-3-(4-benzyloxyformamidophenyl)-5-isothiazolecarboxamide | 22.5 g | NC=1C(=NSC1C(=O)N)C1=CC=C(C=C1)NC(=O)OCC1=CC=CC=C1 | C18H16N4O3S
reactant | sodium nitrite | 4.89 g | N(=O)[O-].[Na+]
solvent | hydrochloric acid | 25 ml | Cl | ClH
solvent | N-methylpyrrolidone | 150 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | 20 ml | O | H2O
solvent | water | 150 ml | O | H2O
product | 7-(4-benzyloxyformamidophenyl)isothiazolo[4,5-d]-1,2,3-triazin-4(3H)-one | 16.6 g | C(C1=CC=CC=C1)OC(=O)NC1=CC=C(C=C1)C1=NSC2=C1N=NNC2=O | C18H13N5O3S
